US07943613B2
A solution of (Z)-3-(4-bromo-phenyl)-3-phenyl-acrylic acid ethyl ester (1.200 g, 3.6 mmol), dimethyl-prop-2-ynyl-amine (0.9 ml, 10.88 mmol), bis(triphenylphosphine) palladium(II) chloride (0.102 g, 0.144 mmol), copper(I) iodide (2.06 mg, 0.0108 mmol) in dry triethylamine (10 ml) were heated to 100° C. by microwave irradiation for 20 min. The cooled reaction mixture was added dichloromethane (20 ml) and silica gel Fluka 60 (10 g) and evaporated in vacuo. The resulting residue was purified by ISCO combiflash 16 (silica gel, hexane/ethyl acetate 85:15) giving (Z)-3-[4-(3-Dimethylamino-prop-1-ynyl)-phenyl]-3-phenyl-acrylic acid ethyl ester as an oil.

reactant | (Z)-3-(4-bromo-phenyl)-3-phenyl-acrylic acid ethyl ester | 3.6 mmol, 1.200 g | C(C)OC(\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)Br)=O | C17H15BrO2
reactant | dimethyl-prop-2-ynyl-amine | 10.88 mmol, 0.9 ml | CN(CC#C)C | C5H9N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.144 mmol, 0.102 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.0108 mmol, 2.06 mg | [Cu]I
product | (Z)-3-[4-(3-Dimethylamino-prop-1-ynyl)-phenyl]-3-phenyl-acrylic acid ethyl ester | C(C)OC(\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)C#CCN(C)C)=O | C22H23NO2
